US08097628B2
Oxalic acid (415 mg, 3.29 mmol) was added to a mixture of [3-chloro-5-(1,3-dioxolan-2-yl)-2-pyridinyl]methanol (142 mg, 0.659 mmol), acetone (7.5 ml), and water (7.5 ml) at room temperature and heated under reflux. After 2.5 h, HPLC showed full conversion. Cooled to rt, basified with 1M NaOH, extracted with TBME, dried (MgSO4), filtered and concentrated to give 139 mg of crude material. Purification by flash chromatography using Flashmaster II, a 5 g silica gel cartridge, and mixtures of DCM and MeOH as eluent afforded impure product. Repurification by manual flash chromatography using a 1 g silica gel cartridge, and mixtures of hexane and EtOAc as eluent afforded 5-chloro-6-(hydroxymethyl)-3-pyridinecarbaldehyde (11.3 mg, 10%) as a white solid.

reactant | Oxalic acid | 3.29 mmol, 415 mg | C(C(=O)O)(=O)O | C2H2O4
reactant | [3-chloro-5-(1,3-dioxolan-2-yl)-2-pyridinyl]methanol | 0.659 mmol, 142 mg | ClC=1C(=NC=C(C1)C1OCCO1)CO | C9H10ClNO3
reactant | acetone | 7.5 ml | CC(=O)C | C3H6O
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | 7.5 ml | O | H2O
product | 5-chloro-6-(hydroxymethyl)-3-pyridinecarbaldehyde | 11.3 mg, 10% | ClC=1C=C(C=NC1CO)C=O | C7H6ClNO2
